2170-04-04 01:22:00 Physician Attending Progress Note
Chief Complaint: SOB, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89M SOB and wheezing x 3 days, also PND. Denies cough, hemoptysis. Has
   had 5 d weight gain. Denies chest pain, fevers. Room air sat 77% at
   home, given levoflox at his [**Hospital3 **].
   In ER, 83% on RA, given ASA, lasix, CTX and azithro. Temp initially
   100. EKG with mild ST depressions though enzymes negative.
   History obtained from housestaff
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CHF
   MI '[**46**]
   HTN
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Most notable for dyspnea
   Flowsheet Data as of  [**2170-4-4**] 01:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 71 (71 - 78) bpm
   BP: 96/63(71) {96/60(71) - 104/63(71)} mmHg
   RR: 19 (17 - 19) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                      1 mL
                                                                    120 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                      1 mL
                                                                      0 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    130 mL
   Urine:
                                                                    760 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,159 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Murmur: Systolic, loudest
   at left heart boarder and apex
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Non-tender, Distended
   Extremities: no edema
   Skin:  Not assessed
   Neurologic: Attentive, Oriented (to): x 3
   Labs / Radiology
   234
   1.7
   25
   3.8
   39
   134
   43
   16
        [image002.jpg]
   Other labs: PT / PTT / INR://1.2, CK / CKMB / Troponin-T:399/8/0.04,
   Lactic Acid:1.5
   Imaging: CXR widespread hazy infiltrates, small right effusion,
   infiltrate RUL, fluid in major fissure right
   ECG: NSR 70, 1st degree AVB, subtle ST depressions V3-4
   Assessment and Plan
   SOB, hypoxemia, infiltrates - CHF versus infection, pulmonary
   hemorrhage due to mitral disease a possibility. Will check BNP, echo.
   Still putting out from previous lasix. Continue beta-[**Last Name (LF) 1463**], [**First Name3 (LF) **]
   restart IV NTG. Cover for CAP, begin micro work-up, blood cultures
   already drawn.
   CAD, HTN - continue ASA, follow enzymes and EKG, continue beta-[**First Name3 (LF) 1463**]
   for now
   renal insufficiency - baseline creatinine unclear, will follow
   ICU Care
   Nutrition: can eat in AM if stabilizes
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-4-3**] 11:26 PM
   20 Gauge - [**2170-4-3**] 11:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 39 minutes
   Patient is critically ill

2170-04-04 09:45:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89M, CAD, HTN, h/o CHF admitted [**4-3**] with 3 days of dyspnea. Found to
   have pulm edema +/- pna and hypoxemic respiratory distress.
   24 Hour Events:
   Echo this am concerning for acute chordae rupture and acute MR.
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Zocor, Metoprolol, ASA 325, CTX, azithro, Heparin tid, Xanax prn
   .
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-4-4**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**72**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 76 (65 - 78) bpm
   BP: 104/56(68) {96/56(67) - 117/69(81)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                      1 mL
                                                                    120 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                      1 mL
                                                                      0 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                  1,000 mL
   Urine:
                                                                    760 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,159 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (Murmur: Systolic), 3+ RUSB SEM and 3+ apical SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Wheezes : R >
   L, Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.2 g/dL
   226 K/uL
   118 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.0 mEq/L
   39 mg/dL
   97 mEq/L
   134 mEq/L
   38.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2170-4-4**]  12:31 AM
                             [**2170-4-4**]  05:31 AM
   WBC
   13.9
   Hct
   38.9
   Plt
   226
   Cr
   1.6
   TropT
   0.04
   0.04
   Glucose
   118
   Other labs: CK / CKMB / Troponin-T:297/7/0.04, Mg++:1.9 mg/dL
   Fluid analysis / Other labs: BNP- 5k
   Imaging: CXR [**4-3**]: Findings compatible with moderate pulmonary edema
   with small bilateral pleural effusions. Moderate-sized hiatal hernia. ?
   RUL consolidation w/ air bronchograms
   ECG: [**2170-4-3**] 20:18.  NSR rate of 87, horizontal axis, AV conduction
   delay with a PR of 250ms, QT and QRS normal.  1mm horizontal ST
   depressions in V3 and V4.  no other significant ST T wave
   abnormalities. Early R wave progression. No prior for comparison.
   [**2170-4-3**] 22:45. compared to prior ST depressions have resolved in V3, and
   have improved to 0.5mm in V4.  No Q waves.  Early R wave progression.
   Assessment and Plan
   89M, CAD, HTN, h/o CHF admitted [**4-3**] with 3 days of dyspnea. Found to
   have pulm edema and hypoxemic respiratory distress, possible acute
   chordae rupture and MR
   1. Hypoxemic resp distress- DDx cardiogenic edema +/- pneumonia
   -supp mgmt w/ NRB, poss NIPPV vs intubation given continued work of
   breathing
   -pulm toilet
   -MSO4 for symptomatic dyspnea
   -spec mgmt as below
   2. Probable Cardiogenic pulm edema- no evidence of ACS but w/ possible
   acute mitral valve dz
   -getting echo this morning
   -cont diuresis and nitroprusside gtt
   3. Possible pneumonia- viral vs bacterial
   -viral swab pending
   -empiric ABX w/ CTX + azithro
   4. CAD- cont statin, BB, and ASA
   5. HTN- NTG gtt and BB as above
   -holding other home anti HTNsives and diuretics
   6. ARF- seems prerenal due to underlying CHF/ poor forward flow
   -cont diuresing and monitor
   ICU Care
   Nutrition:
   Comments: npo for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2170-4-3**] 11:26 PM
   20 Gauge - [**2170-4-3**] 11:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU ; will [**Hospital 13894**] transfer to CCU w/ staff
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   89 yo man with no sign PMHx, presents with three days of SOB, CXR in ED
   with pulmonary edema.  Echo this morning with flail mitral valve.
   Cardiology involved
 patient will go to cath lab, and possibly
   surgery.
   Exam:  pleasant elderly gentlemen.  Exam notable for III/VI HSM, lungs
   with b/l rales.
   A/P:
   Symptoms c/w Pulmonary edema from flail MV/acute diastolic heart
   failure.  Patient to go to cath lab for balloon pump.
   CC 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2170-4-4**] 14:03 ------